US08440666B2
2-[1-(3,6-Dichloropyridazin-4-yl)propyl]isoindoline-1,3-dione
3,6-Dichloropyridazine (596 mg, 4 mmol), 2-(1,3-dioxoisoindolin-2-yl)butanoic acid (1.59 g, 6.8 mmol), silver nitrate (67.9 mg, 0.4 mmol), trifluoroacetic acid (91.2 mg, 0.8 mmol) and water (10 mL) were heated at 70° C. with stirring, and to the resulting mixture, diammonium peroxodisulfate (1.64 g, 7.2 mmol) in water (2 mL) was added dropwise over 30 minutes. After the dropwise addition, the resulting reaction mixture was stirred at 70° C. for 30 minutes, then mixed with 10 mL of ethyl acetate and allowed to cool to room temperature. The reaction mixture was cooled with ice, then basified with 28% aqueous ammonia (to pH 9) and extracted with ethyl acetate. The resulting organic layer was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/ethyl acetate=1/1) to give a crude product, which was used for the next reaction.

reactant | 3,6-Dichloropyridazine | 4 mmol, 596 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2-(1,3-dioxoisoindolin-2-yl)butanoic acid | 6.8 mmol, 1.59 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)O)CC | C12H11NO4
reactant | trifluoroacetic acid | 0.8 mmol, 91.2 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | pH 9 | N | H3N
solvent | water | 2 mL | O | H2O
catalyst | silver nitrate | 0.4 mmol, 67.9 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-[1-(3,6-Dichloropyridazin-4-yl)propyl]isoindoline-1,3-dione | ClC=1N=NC(=CC1C(CC)N1C(C2=CC=CC=C2C1=O)=O)Cl | C15H11Cl2N3O2
